US07547691B2
(D). Preparation of 4-(3-aminopropyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester
Cis/trans-4-(2-cyanovinyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester (1.00 g, 4.0 mmol), 5% Rh/Al2O3 (0.500 g) and 28% aqueous NH3 (1.25 mL) are heated at 35° C. in ethanol (20 mL) and 50 psi hydrogen gas for 18 hours. The reaction mixture is filtered through Celite®, concentrated, and chromatographed with 0-20% (2M NH3 in MeOH) in dichloromethane to give the title compound as a clear oil (0.65 g, 63% yield).

reactant | trans-4-(2-cyanovinyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 4.0 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)\C=C\C#N | C14H22N2O2
reactant | NH3 | 1.25 mL | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Rh/Al2O3 | 0.500 g | [Rh] | Rh
product | 4-(3-aminopropyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 0.65 g, 63% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)CCCN | C14H28N2O2
